US04344948
4-[3,4-Dihydro-2(1H)-quinazolinon-1-yl]-piperidine
In this reference example, 16.0 g of 1-benzyl-4-[3,5-dihydro-2(1H)-quinazolinon-1-yl]-piperidine, 4.0 g of 10% Pd-C, 50 ml of 1 N hydrochloric acid, 150 ml of water and 300 ml of methanol are mixed and stirred at 40° C. Hydrogen gas is introduced to the mixture for 5 hours with stirring. Then, the Pd-C is removed by filtration and the filtrate is concentrated. The white crystalline residue is dissolved in 50 ml of water. The solution is adjusted to pH 10 with aqueous 5 N sodium hydroxide and extracted with chloroform. The extract is washed with water, dried and thereafter concentrated. Then, 50 ml of a mixture of ethyl acetate and n-hexane (1:1 by volume) is added to the residue. After trituration, the solid is separated by filtration, washed with the same mixed solvent to obtain 9.9 g of a crude product. The crude product is recrystallized from water-ethanol to obtain 5.1 g of the desired product.

reactant | 1-benzyl-4-[3,5-dihydro-2(1H)-quinazolinon-1-yl]-piperidine | 16.0 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC=C2CC=CC=C12)=O | C20H23N3O
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
reactant | water | 150 ml | O | H2O
reactant | Hydrogen | [H][H] | H2
catalyst | Pd-C | 4.0 g | [Pd] | Pd
solvent | methanol | 300 ml | CO | CH4O
product | 4-[3,4-Dihydro-2(1H)-quinazolinon-1-yl]-piperidine | 5.1 g | N1(C(NCC2=CC=CC=C12)=O)C1CCNCC1 | C13H17N3O
